US04619783
p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-(ethoxythiocarbonylthio)acetate
To a stirred mixture of 3.2 g. of potassium ethyl xanthate, 5.4 g. of benzyltriethylammonium chloride, 100 ml. of water and 50 ml. of dichloromethane, at 0° C., was added a solution of 7.12 g. of p-nitrobenzyl 2-(4-ethylthio-2-oxo-1-azetidinyl)-2-chloroacetate in 75 ml. of dichloromethane. Stirring was continued at 0°-5° C. for 1 hour, and then the organic phase was removed. The aqueous phase was extracted with 100 ml. of dichloromethane, and then the combined dichloromethane layers were washed successively with 75 ml. of dilute hydrochloric acid, 75 ml. of saturated aqueous sodium bicarbonate and 75 ml. of water. The dichloromethane solution was dried with anhydrous sodium sulfate and evaporated to dryness in vacuo, and the residue was purified by column chromatography on 200 g. of silica gel, eluting with 95:5 chloroform-ethyl acetate. The product containing fractions were combined and concentrated in vacuo to give 4.3 g of the title compound. The IR spectrum (chloroform) showed an absorption at 5.66 microns. The NMR spectrum (deuterochloroform) showed peaks at 1.02-1.6 (m, 6H); 2.35-3.65 (m, 4H); 4.4-5.1 (m, 3H); 5.3 (s, 2H); 6.3 and 6.4 (ss, 1H); 7.4 (d, 2H); and 8.2 (d, 2H) ppm.

reactant | potassium ethyl xanthate | O(C(=S)[S-])CC.[K+]
reactant | water | O | H2O
reactant | p-nitrobenzyl 2-(4-ethylthio-2-oxo-1-azetidinyl)-2-chloroacetate | C(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C14H15ClN2O5S
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-Nitrobenzyl 2-(4-Ethylthio-2-oxo-1-azetidinyl)-2-(ethoxythiocarbonylthio)acetate | 4.3 g | C(C)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC(=S)OCC)=O | C17H20N2O6S3
